US07741327B2
To a solution of (S)-2-[4-(2,6-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-pentanoic acid methyl ester (0.108 g, 0.33 mol) in tetrahydrofuran:water (1:1, 8 mL) was added lithium hydroxide monohydrate (0.042 g 1.00 mmol). The mixture was stirred at room temperature for 2 h. The reaction mixture was poured into water and washed with diethyl ether and the diethyl ether layer discarded. The aqueous phase was acidified with 1N aqueous hydrochloric acid (pH <2), and extracted with ethyl acetate (2×30 mL). The combined ethyl acetate layers were dried over magnesium sulfate, filtered and concentrated to afford (S)-2-[4-(2,6-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-pentanoic acid, (0.086 g, 87%), as an off-white solid: LR-ES-MS m/z calculated for C15H15F2NO4 [M+H]+ 312, observed 312.

reactant | (S)-2-[4-(2,6-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-pentanoic acid methyl ester | 0.33 mol, 0.108 g | COC([C@H](CCC)N1C(C=C(C1)OC1=C(C=CC=C1F)F)=O)=O | C16H17F2NO4
reactant | lithium hydroxide monohydrate | 1.00 mmol, 0.042 g | O.[OH-].[Li+]
reactant | water | O | H2O
solvent | tetrahydrofuran water | 8 mL | O1CCCC1.O
product | (S)-2-[4-(2,6-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-pentanoic acid | 0.086 g, 87% | FC1=C(OC2=CC(N(C2)[C@H](C(=O)O)CCC)=O)C(=CC=C1)F | C15H15F2NO4
